US08207168B2
A suspension of 5-hydroxy-4-(4-methoxyphenyl)-5H-furan-2-one (2.00 g, 9.7 mmol) in 15 mL of ethanol was stirred as hydrazine hydrate (0.97 g, 2.0 eq) was added in dropwise. The reaction was stirred at 85° C. overnight, and then the solvent was reduced. The solid was collected and washed with cold EtOH to give 1.7 g (87%) of 5-(4-methoxy-phenyl)-2H-pyridazin-3-one: MS m/z 203 (M+H).

reactant | 5-hydroxy-4-(4-methoxyphenyl)-5H-furan-2-one | 9.7 mmol, 2.00 g | OC1C(=CC(O1)=O)C1=CC=C(C=C1)OC | C11H10O4
reactant | hydrazine hydrate | 0.97 g, 2.0 eq | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-(4-methoxy-phenyl)-2H-pyridazin-3-one | 1.7 g, 87% | COC1=CC=C(C=C1)C1=CC(NN=C1)=O | C11H10N2O2
